US06015827
3-(4-Fluorobenzyloxy)benzamide (Compound NU1015)
To 3-hydroxybenzamide (2.0 mM) under nitrogen was added anhydrous acetonitrile (30 ml), potassium carbonate (2.0 mM), and p-fluorobenzyl bromide (2.0 mM). The mixture was refluxed for 14 hours, and the progress of the reaction monitored by TLC. The excess solvent was removed under vacuum, until dry, and the title compound was recrystallised from hot dichloromethane (minimum amount), and petrol ether 40/60. A white crystalline solid was isolated and dried. Melting point: 161-162° C. Infrared data: KBr disc: cm-1 : 3366; 3171; 1H NMR: d6DMSO: δ=5.23 (s; 2H; CH2); 7.26-7.68 (m; 9H; NH; aromatics); 8.11 (s; 1H; H4);

reactant | 3-hydroxybenzamide | 2.0 mM | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | potassium carbonate | 2.0 mM | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluorobenzyl bromide | 2.0 mM | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(4-Fluorobenzyloxy)benzamide | FC1=CC=C(COC=2C=C(C(=O)N)C=CC2)C=C1 | C14H12FNO2
